US05412102
A solution of 2,-[2-(1-methyl-1-phenylethyl)-2H-tetrazol-5-yl]biphenyl-4-carbaldehyde (0.62 g, 1.7 mmol), prepared as in Example 8 or 9, and sodium borohydride in 30 mL of absolute ethanol was stirred at room temperature for 1 hour. The mixture poured into 150 mL of water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over magnesium sulfate and then concentrated. The residue was dissolved in approximately 10 mL of absolute diethyl ether and the solution was cooled in an ice bath giving a precipitate. The precipitate was isolated by filtration and drying gave 2'-[2-(1-methyl-1-phenylethyl)-2H-tetrazol-5-yl]biphenyl-4-methanol (0.37 g, 1.0 mmol), m.p. 119°-120° C.

reactant | [2-(1-methyl-1-phenylethyl)-2H-tetrazol-5-yl]biphenyl-4-carbaldehyde | 1.7 mmol, 0.62 g | CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=C(C=CC(=C1)C=O)C1=CC=CC=C1 | C23H20N4O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | 150 mL | O | H2O
reactant | ethanol | 30 mL | C(C)O | C2H6O
product | 2'-[2-(1-methyl-1-phenylethyl)-2H-tetrazol-5-yl]biphenyl-4-methanol | 1.0 mmol, 0.37 g | CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=C(C=CC=C1)C1=CC=C(C=C1)CO | C23H22N4O
